### PR TITLE
feat(Data/Fintype/EquivFin): infinite types are Dedekind-infinite

### PR DESCRIPTION
**Pull request by b-mehta**
The converses of these are already in mathlib

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Fintype/EquivFin.lean [hunk 1]
```diff
@@ -567,6 +567,36 @@ theorem exists_superset_card_eq [Infinite α] (s : Finset α) (n : ℕ) (hn : #s
     refine ⟨Finset.cons x t hx, hs.trans (Finset.subset_cons _), ?_⟩
     simp [ht]
 
+/-- An infinite type admits an injective self-map that is not surjective.
```
Comment (Vierkantor) [inline Mathlib/Data/Fintype/EquivFin.lean]: Let's also mention the name of this property in the docstring at least:
```suggestion
/-- An infinite type is **Dedekind-infinite**: it admits an injective self-map that is not surjective.
```

File: Mathlib/Data/Fintype/EquivFin.lean [hunk 2]
```diff
@@ -567,6 +567,36 @@ theorem exists_superset_card_eq [Infinite α] (s : Finset α) (n : ℕ) (hn : #s
...
+
+On a finite type every injective self-map is instead surjective, by
+`Finite.injective_iff_surjective`. -/
+theorem exists_injective_not_surjective (α : Type*) [Infinite α] :
```
Comment (Vierkantor) [inline Mathlib/Data/Fintype/EquivFin.lean]: Since Mathlib already has the converses, could you add an `iff` version of these two theorems?

File: Mathlib/Data/Fintype/EquivFin.lean [hunk 3]
```diff
@@ -567,6 +567,36 @@ theorem exists_superset_card_eq [Infinite α] (s : Finset α) (n : ℕ) (hn : #s
...
+    (Equiv.Set.sumCompl (Set.range e)).symm.trans
+      ((Equiv.ofInjective e e.injective).symm.sumCongr (Equiv.refl _))
+  -- now our map will be +1 on the ℕ portion, leaving the rest unchanged
+  refine ⟨g.symm ∘ Sum.map Nat.succ id ∘ g,
+    g.symm.injective.comp ((Nat.succ_injective.sumMap injective_id).comp g.injective),
+    fun hsurj ↦ ?_⟩
+  -- and (the copy of) 0 is never hit, so the map is not surjective
+  obtain ⟨x, hx⟩ := hsurj (g.symm (Sum.inl 0))
+  rcases hgx : g x <;>
+  grind [g.symm.injective]
```
Comment (Vierkantor) [inline Mathlib/Data/Fintype/EquivFin.lean]: For completeness, I'd also like to have `exists_surjective_not_injective` (i.e. the right inverse of the `f` we give here).

**Review by Vierkantor — COMMENTED** [review]
The code is nice and neat, thanks!
